US06951888B2
(e) 2-methyl-1-(2,4,6-trimethylphenyl)propan-2-ol
97 g (79%) of the title compound is prepared from 38 g of magnesium and 222 g of methyl iodide in 1.2 L of diethyl ether and 116 g of methyl (2,4,6-trimethylphenyl)acetate under standard conditions in a Grignard reaction. bp15: 140° C.

reactant | magnesium | 38 g | [Mg] | Mg
reactant | methyl iodide | 222 g | CI | CH3I
reactant | methyl (2,4,6-trimethylphenyl)acetate | 116 g | CC1=C(C(=CC(=C1)C)C)CC(=O)OC | C12H16O2
reactant | diethyl ether | 1.2 L | C(C)OCC | C4H10O
product | 2-methyl-1-(2,4,6-trimethylphenyl)propan-2-ol | 97 g, 79% | CC(CC1=C(C=C(C=C1C)C)C)(C)O | C13H20O
